US05192781
1.8 g of methyl (4-propyl-5-(4-aminobenzyl)thiazol-2-yl)aminoacetate are dissolved in 40 ml of acetonitrile and treated with a solution of 1.08 g of o-sulfobenzoic anhydride in 10 ml of acetonitrile. The mixture is stirred for 24 hours at 25° C., the solution is then concentrated, the residue is taken up with ethyl acetate and the precipitate is filtered off. It is chromatographed on a silica column in the presence of triethylamine to give 1.9 g of the triethylamine salt of methyl (4-propyl-5-(4-(2-sulfobenzoylamino)benzyl)thiazol-2-yl)aminoacetate in the form of a white powder melting at 95°-6° C.

reactant | methyl (4-propyl-5-(4-aminobenzyl)thiazol-2-yl)aminoacetate | 1.8 g | C(CC)C=1N=C(SC1CC1=CC=C(C=C1)N)NCC(=O)OC | C16H21N3O2S
reactant | o-sulfobenzoic anhydride | 1.08 g | S(=O)(=O)(O)C1=C(C(=O)OC(C2=C(C=CC=C2)S(=O)(=O)O)=O)C=CC=C1 | C14H10O9S2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl (4-propyl-5-(4-(2-sulfobenzoylamino)benzyl)thiazol-2-yl)aminoacetate | C(CC)C=1N=C(SC1CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)S(=O)(=O)O)=O)NCC(=O)OC | C23H25N3O6S2
